US05312625
Synthesis of 4-(4-bromobutyl)-2,3,4,5-tetrahydro-1,4-benzodiazepine-3.5-dione
A solution of 84.2 mg of 2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione dissolved in 10 ml of dimethylformamide was ice-cooled, and then 0.0874 ml (1.5 equivalents) of 1,4-dibromobutane and 23.0 mg (1.2 equivalents) of 60% sodium hydride were added, followed reaction treatment and purification were conducted in the desired compound (yield 64%)

reactant | 2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione | 84.2 mg | N1CC(NC(C2=C1C=CC=C2)=O)=O | C9H8N2O2
reactant | 1,4-dibromobutane | 0.0874 ml, 1.5 equivalents | BrCCCCBr | C4H8Br2
reactant | sodium hydride | 23.0 mg, 1.2 equivalents | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromobutyl)-2,3,4,5-tetrahydro-1,4-benzodiazepine-3.5-dione | yield 64% | BrCCCCN1C(CNC2=C(C1=O)C=CC=C2)=O | C13H15BrN2O2
